US04140775
In the manner given in Example 1A, p-nitrobenzyl chloride is reacted with 1-(p-fluorophenyl)piperazine dihydrochloride in the presence of triethylamine to give 1-(p-fluorophenyl)-4-(p-nitrobenzyl)piperazine

reactant | p-nitrobenzyl chloride | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
reactant | 1-(p-fluorophenyl)piperazine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)N1CCNCC1
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-(p-fluorophenyl)-4-(p-nitrobenzyl)piperazine | FC1=CC=C(C=C1)N1CCN(CC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C17H18FN3O2
